US08058383B2
Inside a glove box, a 200 mL round-bottom flask equipped with a reflux condenser, stirring bar, and septum was charged with 2,5-dibromo-benzene-sulfonyl chloride (16.72 g, 50 mmoles), trifluoromethanesulfonamide (7.45 g, 50 mmoles), and acetonitrile (50 mL). Triethylamine (14 mL, 100 mmoles) was added slowly by syringe. The solution was heated to a reflux overnight. The solution was cooled to room temperature and poured into an aqueous solution of sodium hydroxide (4.0 g, 100 mmoles) in 100 mL water. The solvents were evaporated on a rotary evaporator and the solids were dried under vacuum. The solids were dissolved in n-propanol at reflux, treated with decolorizing carbon, filtered to remove the carbon and residual salts, evaporated on a rotary evaporator, and dried under vacuum to give 23.54 g (100%). The solids were recrystallized from dioxane to give 12.77 g (54% yield) of N-trifluoromethanesulfonyl-2,5-dibromo-benzene-sulfonamide, sodium salt. The salt was dried overnight in a vacuum oven at 150° C. under a nitrogen purge. 1H NMR (DMSO-d6): 7.62 (dd, J=8 and 2 Hz, 1H), 7.69 (d, J=8 Hz, 1H), 8.05 (d, J=2 Hz, 1H).

reactant | 2,5-dibromo-benzene-sulfonyl chloride | 50 mmoles, 16.72 g | BrC1=C(C=C(C=C1)Br)S(=O)(=O)Cl | C6H3Br2ClO2S
reactant | trifluoromethanesulfonamide | 50 mmoles, 7.45 g | FC(S(=O)(=O)N)(F)F | CH2F3NO2S
reactant | Triethylamine | 100 mmoles, 14 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 100 mmoles, 4.0 g | [OH-].[Na+]
reactant | sodium | [Na] | Na
solvent | water | 100 mL | O | H2O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-trifluoromethanesulfonyl-2,5-dibromo-benzene-sulfonamide | 12.77 g, 54% yield | FC(S(=O)(=O)NS(=O)(=O)C1=C(C=CC(=C1)Br)Br)(F)F | C7H4Br2F3NO4S2
